US05849796
10 g of methyl 2-methyl-4-chloro-5-methylsulphonylbenzoate are added, while cooling with ice, to a mixture of 30 ml of conc. HCl and 200 ml of methanol, and the whole is then stirred for 2 h. The resulting precipitate is filtered off with suction and recrystallized from methanol. 2-Methyl-4-chloro-5-methylsulphonylbenzoic acid is obtained, m.p. 217°-218°.

reactant | methyl 2-methyl-4-chloro-5-methylsulphonylbenzoate | 10 g | CC1=C(C(=O)OC)C=C(C(=C1)Cl)S(=O)(=O)C | C10H11ClO4S
reactant | HCl | 30 ml | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | 2-Methyl-4-chloro-5-methylsulphonylbenzoic acid | CC1=C(C(=O)O)C=C(C(=C1)Cl)S(=O)(=O)C | C9H9ClO4S
